US08614239B2
Preparation of 1-(2-Hydroxy-ethyl)-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]amide (2C)
NaBH4 (0.117 g, 0.82 mmol) was added to a solution of 1-(2-oxo-ethyl)-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide (0.086 g, 0.1557 mmol) in dry THF (10 mL) at 0° C. This was followed by the addition of methanol (2 mL) dropwise over a period of 10 minutes at 0° C. The reaction mass was stirred for 30 minutes at 10° C. The reaction was monitored by TLC (60% ethyl acetate in hexane). The reaction mass was partitioned between ethyl acetate (50 mL) and water. The organic layer was washed with water, brine solution and concentrated under reduced pressure to afford the crude product. Purification by column chromatography on silica gel (60% ethyl acetate in hexane) afforded 0.040 g of the product (46% yield). 1H NMR (DMSO-d6, 300 MHz): δ 9.56 (bs, 1H), 8.34 (d, 1H), 7.77 (bs, 1H), 7.56 (dd, 1H), 7.48 (d, 1H), 7.22 (d, 1H), 6.48-6.52 (m, 1H), 4.52 (bs, 1H), 3.51 (t, 2H), 2.20 (t, 2H), 0.85 (t, 2H), 0.55 (t, 2H). LCMS: 100%, m/z=550.8 (M−1). HPLC: 96.79%

reactant | NaBH4 | 0.82 mmol, 0.117 g | [BH4-].[Na+]
reactant | 1-(2-oxo-ethyl)-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]-amide | 0.1557 mmol, 0.086 g | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2(CC2)CC=O)NC2=C(C=C(C=C2)I)F)F | C19H14F3IN2O4S
reactant | methanol | 2 mL | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-Hydroxy-ethyl)-cyclopropanesulfonic acid [4,5-difluoro-6-(2-fluoro-4-iodo-phenylamino)-benzofuran-7-yl]amide | 0.040 g, 46% yield | FC1=C(C(=C(C2=C1C=CO2)NS(=O)(=O)C2(CC2)CCO)NC2=C(C=C(C=C2)I)F)F | C19H16F3IN2O4S
